US07491724B2
(1S,2S,5R)-N-hydroxy-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(pyridin-3-ylmethoxy)cyclohexanecarboxamide
1.5 M of hydroxyamine solution (0.7 ml) was added to a solution of methyl(1S,2S,5R)-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(pyridin-3-ylmethoxy)cyclohexanecarboxylate (0.075 mmol, 0.000075 mol) made above in methanol (0.5 mL, 0.01 mol). It was stirred at rt for 2 hrs then purified by Prep-HPLC. LCMS: (M+H)+=439.3.

reactant | hydroxyamine | 1.5 M, 0.7 ml | ON | H3NO
reactant | methyl(1S,2S,5R)-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(pyridin-3-ylmethoxy)cyclohexanecarboxylate | 0.075 mmol | C1(=CC=CC=C1)N1CCN(CC1)C(=O)[C@@H]1[C@H](C[C@@H](CC1)OCC=1C=NC=CC1)C(=O)OC | C25H31N3O4
reactant | methanol | 0.01 mol, 0.5 mL | CO | CH4O
product | (1S,2S,5R)-N-hydroxy-2-[(4-phenylpiperazin-1-yl)carbonyl]-5-(pyridin-3-ylmethoxy)cyclohexanecarboxamide | ONC(=O)[C@@H]1[C@H](CC[C@H](C1)OCC=1C=NC=CC1)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C24H30N4O4
